US07893060B2
2-[4-(5-Chloro-7-morpholin-4-yl-thiazolo[4,5-d]pyrimidin-2-ylmethyl)-piperazin-1-yl]-isobutyramide
The title compounds was prepared according to the method used in the preparation of 5-(5-chloro-7-morpholin-4-ylthiazolo[4,5-d]pyrimidin-2-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester using 2-piperazin-1-yl-isobutyramide in place of hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester. The title compound was obtained as an off-white solid (71 mg, 36%).

reactant | 5-(5-chloro-7-morpholin-4-ylthiazolo[4,5-d]pyrimidin-2-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2CN(CC2C1)CC=1SC2=C(N=C(N=C2N2CCOCC2)Cl)N1 | C21H29ClN6O3S
reactant | 2-piperazin-1-yl-isobutyramide | N1(CCNCC1)C(C(=O)N)(C)C | C8H17N3O
product | 2-[4-(5-Chloro-7-morpholin-4-yl-thiazolo[4,5-d]pyrimidin-2-ylmethyl)-piperazin-1-yl]-isobutyramide | ClC=1N=C(C2=C(N1)N=C(S2)CN2CCN(CC2)C(C(=O)N)(C)C)N2CCOCC2 | C18H26ClN7O2S
